US07713969B2
Preparation of 3-(5,6-Dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(2-trifluoromethyl-quinolin-4-yl-sulfanyl)-pyrrole-2,5-dione
3-(5,6-Dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4¶-trifluoromethyl-quinolin-4-yl-sulfanyl)-pyrrole-2,5-dione was prepared according to Example 1, steps 1-6, employing 2-[[2-(trifluoromethyl)-4-quinolinyl]thio]acetamide in place of indole-3-acetamide in step 6. 1H NMR (CDCl3) 400 MHz δ: 8.3(d, 1H, J=7.6 Hz), 8.11(d, 1H, J=8.4 Hz), 8.05(s, 1H), 7.68-7.82(m, 4H), 7.23(s, 1H), 6.83(m, 2H), 4.21(t, 2H, J=6 Hz), 2.92(t, 2H, J=6 Hz), 2.21(m, 2H).

reactant | pyrrole-2,5-dione | N1C(C=CC1=O)=O | C4H3NO2
reactant | 2-[[2-(trifluoromethyl)-4-quinolinyl]thio]acetamide | FC(C1=NC2=CC=CC=C2C(=C1)SCC(=O)N)(F)F | C12H9F3N2OS
product | 3-(5,6-Dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(2-trifluoromethyl-quinolin-4-yl-sulfanyl)-pyrrole-2,5-dione | C1(=CN2CCCC3=CC=CC1=C23)C=2C(NC(C2SC2=CC(=NC3=CC=CC=C23)C(F)(F)F)=O)=O | C25H16F3N3O2S
